US07678820B2
4-{5-[3-(Trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indole (100 mg) was dissolved in DMF (1.0 ml), followed by addition of 60% NaH (10.9 mg) at 0° C., and stirring at room temperature for 0.5 hour. Methyl chloride carbonate (26.3 μl) was added thereto at 0° C., followed by stirring at room temperature for 3 hours. To the reaction solution was added water (30 ml), followed by extraction three times with EtOAc (20 ml), the organic layer was combined, washed with saturated brine, dried over anhydrous MgSO4, and then filtered, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (automatic purifier, chloroform:CH3OH=100:0 to 98:2) to obtain methyl 4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indole-1-carboxylate (98.6 mg) as a white solid.

reactant | 4-{5-[3-(Trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indole | 100 mg | FC(C=1C=C(C=CC1OC(C(F)(F)F)C)C1=NC(=NO1)C1=C2C=CNC2=CC=C1)(F)F | C20H13F6N3O2
reactant | NaH | 10.9 mg | [H-].[Na+]
reactant | Methyl chloride carbonate | 26.3 μl | C(O)(O)=O.CCl
reactant | water | 30 ml | O | H2O
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | methyl 4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indole-1-carboxylate | 98.6 mg | FC(C=1C=C(C=CC1OC(C(F)(F)F)C)C1=NC(=NO1)C1=C2C=CN(C2=CC=C1)C(=O)OC)(F)F | C22H15F6N3O4
